US05116402
Preparation of trichloro-acetaldehyde di-isoamyl acetal
A mixture of 5 g of chloral-hydrate, 10 g of isoamyl-alcohol, 0.1 g of 4-methyl-benzene-sulphonic acid and 50 ml of benzene is kept at reflux temperature and the formed water is separated by means of a Dean-Stark apparatus. After a reaction time of 9 hours the benzene is washed with a sodium-hydrogen-carbonate solution and water, dried on magnesium sulfate, then vacuum distilled.

reactant | chloral-hydrate | 5 g | O.O=CC(Cl)(Cl)Cl
reactant | isoamyl-alcohol | 10 g | C(CC(C)C)O | C5H12O
reactant | 4-methyl-benzene-sulphonic acid | 0.1 g | CC1=CC=C(C=C1)S(=O)(=O)O | C7H8O3S
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
product | trichloro-acetaldehyde di-isoamyl acetal | C(CC(C)C)OC(C(Cl)(Cl)Cl)OCCC(C)C | C12H23Cl3O2
